US04448781
A solution of 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester (2.0 g) in ethanol (10 ml) and concentrated aqueous ammonia (SG 0.880) were heated under reflux for 2 hours and then evaporated. The residue was crystallised from a mixture of methanol and 2-butanone to give 4-(1-imidazolylmethyl)phenoxyacetamide (1.31 g) m.p. 173°-174° C. Found: C, 62.42, H, 5.76, N, 17.40. C12H13N3O2 requires: C, 62.32, H, 5.67, N, 18.17%.

reactant | 4-(1-imidazolylmethyl)phenoxyacetic acid ethyl ester | 2.0 g | C(C)OC(COC1=CC=C(C=C1)CC=1NC=CN1)=O | C14H16N2O3
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-(1-imidazolylmethyl)phenoxyacetamide | 1.31 g | N1C(=NC=C1)CC1=CC=C(OCC(=O)N)C=C1 | C12H13N3O2
